US07700641B2
Synthesis of 4′-(6-methoxypyridin-3-yl)-1′-{[5-(trifluoromethyl)-2-furyl]methyl}spiro[furo[2,3-f][1,3]benzodioxole-7,3′-indol]-2′(1′H)-one
Following the procedure as described in EXAMPLE 4, and making non-critical variations using 4′-bromo-1′-{[5-(trifluoromethyl)-2-furyl]methyl}spiro[furo[2,3-f][1,3]benzodioxole-7,3′-indol]-2′(1′H)-one to replace 4′-bromo-1′-pentylspiro[furo[2,3-f][1,3]benzodioxole-7,3′-indol]-2′(1′H)-one, and (6-methoxypyridin-3-yl)boronic acid to replace [6-(dimethylamino)pyridin-3-yl]boronic acid, the title compound was obtained (51%) as a colorless solid: mp 174-176° C.; 1H NMR (300 MHz, CDCl3) δ 7.73 (d, 1H), 7.69 (d, 1H), 7.34 (t, 1H), 7.03 (d, 1H), 6.89-6.86 (m, 2H), 6.65 (d, 1H), 6.61 (d, 1H), 6.56 (d, 1H), 6.17 (d, 2H), 5.87 (d, 2H), 4.99 (ABq, 2H), 4.56 (ABq, 2H), 3.90 (s, 3H); 13C NMR (75 MHz, CDCl3) δ 177.7, 163.5, 158.4, 156.1, 151.8, 151.8, 149.2, 147.8, 146.1, 142.3, 141.6, 138.8, 136.9, 132.6, 130.0, 129.1, 127.8, 127.2, 126.2, 119.9, 112.7, 112.7, 110.9, 109.6, 109.5, 108.5, 102.3, 101.6, 93.6, 78.2, 58.5, 53.6, 37.0; MS (ES+) m/z 537.4 (M+1).

reactant | 4′-bromo-1′-{[5-(trifluoromethyl)-2-furyl]methyl}spiro[furo[2,3-f][1,3]benzodioxole-7,3′-indol]-2′(1′H)-one | BrC1=C2C3(C(N(C2=CC=C1)CC=1OC(=CC1)C(F)(F)F)=O)COC=1C3=CC3=C(OCO3)C1 | C22H13BrF3NO5
reactant | 4′-bromo-1′-pentylspiro[furo[2,3-f][1,3]benzodioxole-7,3′-indol]-2′(1′H)-one | BrC1=C2C3(C(N(C2=CC=C1)CCCCC)=O)COC=1C3=CC3=C(OCO3)C1 | C21H20BrNO4
reactant | (6-methoxypyridin-3-yl)boronic acid | COC1=CC=C(C=N1)B(O)O | C6H8BNO3
reactant | [6-(dimethylamino)pyridin-3-yl]boronic acid | CN(C1=CC=C(C=N1)B(O)O)C | C7H11BN2O2
product | 4′-(6-methoxypyridin-3-yl)-1′-{[5-(trifluoromethyl)-2-furyl]methyl}spiro[furo[2,3-f][1,3]benzodioxole-7,3′-indol]-2′(1′H)-one | COC1=CC=C(C=N1)C1=C2C3(C(N(C2=CC=C1)CC=1OC(=CC1)C(F)(F)F)=O)COC=1C3=CC3=C(OCO3)C1 | C28H19F3N2O6
